US06995171B2
19.5 g (85.6 mmol) of 7-chloro-thieno[3,2-b]pyridine-2-carbothioic acid amide was added to 160 mL of a 1:1 DMF:THF solution mixture and cooled to 0° C. To this solution was slowly added 17.7 mL (128 mmol) of ethyl 2-chloroacetoacetate. After addition, the reaction was heated to 80° C. for sixteen hours. The reaction was cooled to room temperature and extracted with dichloromethane and water. The organic layer was separated and dried over magnesium sulfate, filtered, concentrated and purified by silica gel chromatography to afford 2-(7-Chloro-thieno[3,2-b]pyridin-2-yl)-4-methyl-thiazole-5-carboxylic acid ethyl ester (15.6 g) in 54% yield. C14H11ClN2O2S2: APCI m/z 339.1/341.0 (pos.); 1H NMR (CDCl3): δ 8.68 (d, 1H , J=5.4 Hz), 8.24 (s, 1H), 7.51 (d, 1H, J=5.4 Hz), 4.36 (q, 2H, J=7.1 Hz), 2.77 (s, 3H), 1.38 (t, 3H, J=7.1 Hz) ppm.

reactant | 7-chloro-thieno[3,2-b]pyridine-2-carbothioic acid amide | 85.6 mmol, 19.5 g | ClC1=C2C(=NC=C1)C=C(S2)C(N)=S | C8H5ClN2S2
reactant | DMF | 160 mL | CN(C)C=O | C3H7NO
reactant | ethyl 2-chloroacetoacetate | 128 mmol, 17.7 mL | ClC(C(=O)OCC)C(=O)C | C6H9ClO3
solvent | THF | C1CCOC1 | C4H8O
product | 2-(7-Chloro-thieno[3,2-b]pyridin-2-yl)-4-methyl-thiazole-5-carboxylic acid ethyl ester | 15.6 g, 54% yield | C(C)OC(=O)C1=C(N=C(S1)C1=CC2=NC=CC(=C2S1)Cl)C | C14H11ClN2O2S2
